US07491752B2
2.39 g (3.08 mmol) of 3,5-bis[(8-{2-methoxy-4-[(1E)-3-methoxy-3-oxo-1-propenyl]phenoxy}octyl)oxy]benzyl alcohol, 1,14 g (3.42 mmol) tetrabromomethane were dissolved in 25 ml dichloromethane. The solution was subsequently cooled to 0° C. and a solution of 0.86 g (3.29 mmol) triphenylphosphine in 20 ml dichloromethane was added dropwise thereto over a period of 1 hour. The mixture was subsequently allowed to react for 20 h at 25° C. and reduced in volume by evaporation. Chromatography of the residue on 120 g silica gel using first toluene:ethyl acetate (19:1) then (4:1) as eluant yielded 1.94 g (78%) 3,5-bis[(8-{2-methoxy-4-[(1E)-3-methoxy-3-oxo-1-propenyl]phenoxy}octyl)oxy]benzyl bromide as colorless oil.

reactant | 3,5-bis[(8-{2-methoxy-4-[(1E)-3-methoxy-3-oxo-1-propenyl]phenoxy}octyl)oxy]benzyl alcohol | 3.08 mmol, 2.39 g | COC1=C(OCCCCCCCCOC=2C=C(CO)C=C(C2)OCCCCCCCCOC2=C(C=C(C=C2)\C=C\C(OC)=O)OC)C=CC(=C1)\C=C\C(=O)OC | C45H60O11
reactant | tetrabromomethane | 3.42 mmol, 1,14 g | BrC(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 3.29 mmol, 0.86 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3,5-bis[(8-{2-methoxy-4-[(1E)-3-methoxy-3-oxo-1-propenyl]phenoxy}octyl)oxy]benzyl bromide | 1.94 g, 78% | COC1=C(OCCCCCCCCOC=2C=C(CBr)C=C(C2)OCCCCCCCCOC2=C(C=C(C=C2)\C=C\C(OC)=O)OC)C=CC(=C1)\C=C\C(=O)OC | C45H59BrO10
